US08008307B2
Step a: (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]oxy}cyclopentanol
A suspension of (1R,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopent-2-en-1-ol (1.47 g, 0.00439 mol), sodium carbonate (1.1 g, 0.010 mol) and 10% Pd/C (0.3 g, 0.0003 mol) in EtOAc (20 mL, 0.2 mol) was stirred under an atmosphere of Hydrogen overnight. The reaction was purged with nitrogen and filtered through celite with EtOAc. The filtrate was concentrated to obtain 1.45 g (98%) of the title compound as a 5:1 mixture of diastereomers (desired:undesired).

reactant | (1R,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]-oxy}cyclopent-2-en-1-ol | 0.00439 mol, 1.47 g | C(C1=CC=CC=C1)OCC1=C[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)O | C19H30O3Si
reactant | sodium carbonate | 0.010 mol, 1.1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | EtOAc | 0.2 mol, 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.0003 mol, 0.3 g | [Pd] | Pd
product | (1S,3S,4S)-3-[(benzyloxy)methyl]-4-{[tert-butyl(dimethyl)silyl]oxy}cyclopentanol | 1.45 g, 98% | C(C1=CC=CC=C1)OC[C@@H]1C[C@@H](C[C@@H]1O[Si](C)(C)C(C)(C)C)O | C19H32O3Si
